US07683064B2
To 2-(3-Bromo-phenyl)-3-(3-tert-butyl-phenylamino)-acrylic acid ethyl ester (151 mg, 0.388 mmol) was added 10 g of polyphosphoric acid. The resulting mixture was heated at 140° C. for 90 minutes. 80 mL of water was added. The mixture was stirred for 40 minutes. The resulting precipitate was filtered, washed with water, and air dried for 3 days to yield 3-(3-Bromo-phenyl)-7-tert-butyl-1H-quinolin-4-one (123 mg. 0.345 mmol). MS (ESI) 356 (M+H)+.

reactant | 2-(3-Bromo-phenyl)-3-(3-tert-butyl-phenylamino)-acrylic acid ethyl ester | 0.388 mmol, 151 mg | C(C)OC(C(=CNC1=CC(=CC=C1)C(C)(C)C)C1=CC(=CC=C1)Br)=O | C21H24BrNO2
solvent | water | 80 mL | O | H2O
product | 3-(3-Bromo-phenyl)-7-tert-butyl-1H-quinolin-4-one | 0.345 mmol, 123 mg | BrC=1C=C(C=CC1)C1=CNC2=CC(=CC=C2C1=O)C(C)(C)C | C19H18BrNO
